US04166817
(e) 4-Azido-7-methyl-1,8-naphthyridine-3-carboxylic acid
4-Azido-3-carbethoxy-7-methyl-1,8-naphthyridine (2.4 g; 0.008 M) was suspended in 10% aq. NaOH (60 ml) and the mixture stirred at ambient temperatures until all the ester had reacted. The insoluble material was removed by filtration and redissolved in H2O. The pH of the solution was adjusted to 3.5 with 5 M HCl and the resulting precipitate (1.3 g; 71%) filtered off, washed with H2O and dried over P2O5 in vacuo, m.p. 198° C. (explosive dec. on rapid heating), (Found: N, 29.66%; C10H7N5O2.1/2H2O requires N, 29.41%), m/e 201 (M+--N2 ; 95%), 159 (100%) νmax (KBr) 3430 (br), 2430 (br), 2150, 2060-1800 (br), 1705, 1605, 1560, 1475, 1375, 1260, 1230, 1202, 920, 810 cm-1, δ [(CD3)2SO] 2.72 (s) (CH3), 7.62 (d), 8.62 (d), 9.29 (s) (heterocyclic protons), CO2H* diffuse low-field resonance, *exchangeable with D2O.

reactant | 4-Azido-3-carbethoxy-7-methyl-1,8-naphthyridine | 0.008 M, 2.4 g | N(=[N+]=[N-])C1=C(C=NC2=NC(=CC=C12)C)C(=O)OCC | C12H11N5O2
solvent | NaOH | 60 ml | [OH-].[Na+]
product | 4-Azido-7-methyl-1,8-naphthyridine-3-carboxylic acid | N(=[N+]=[N-])C1=C(C=NC2=NC(=CC=C12)C)C(=O)O | C10H7N5O2
